US05201936
Synthesis of 2-acetyl-3-hydroxy-4-methylthiophene
36.0 g (0.227 mol) of 2-acetyl-3-keto-4-methyl-4,5-dihydrothiophene are initially introduced into 260 ml of methylene chloride 21.9 ml of sulphuryl chloride in 260 ml of methylene chloride are then added dropwise at 0° C. While the sulphuryl chloride/methylene chloride mixture is added dropwise, a stream of nitrogen is passed into the solution to expel the HCl gas which is formed. When the addition is complete, stirring is continued for 30 minutes at 10°-15° C. The mixture is then introduced into 600 ml of water, and the organic phase is extracted with a 5% strength NaHCO3 solution, dried and concentrated in vacuo.

reactant | 2-acetyl-3-keto-4-methyl-4,5-dihydrothiophene | 0.227 mol, 36.0 g | C(C)(=O)C1SCC(C1=O)C | C7H10O2S
reactant | sulphuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulphuryl chloride methylene chloride | S(=O)(=O)(Cl)Cl.C(Cl)Cl
reactant | HCl | Cl | ClH
solvent | methylene chloride | 260 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 260 ml | C(Cl)Cl | CH2Cl2
solvent | water | 600 ml | O | H2O
product | 2-acetyl-3-hydroxy-4-methylthiophene | C(C)(=O)C=1SC=C(C1O)C | C7H8O2S
